US06333425B1
The scandium salt of dibutylaminosulfonylmalononitrile, obtained in Example 40, was used as catalyst in a Friedel-Crafts reaction of acylation, by operating in the following manner. In 40 ml of anhydrous nitromethane, there is added 570 mg (700 μmoles) of Sc(DBSM)3, and 1.08 g (10 mmoles) of anisol and 2.04 g of acetic anhydride. After stirring during 10 min at 21° C., the reaction mixture was diluted with 50 ml of ether and the reaction was inhibited by using 100 ml of a saturated solution of sodium bicarbonate NaHCO3. After filtration on Celite, the solution was extracted with three fractions of 50 ml of ether, and the collected ether phase was washed with a saturated solution of potassium chloride. After drying the ether phase with magnesium sulfate and evaporation, 1.46 g of p-methoxyacetophenone (97% yield) was recovered, with a purity characterized by a proton RMN higher than 99%.

reactant | anisol | 10 mmoles, 1.08 g | C1(=CC=CC=C1)OC | C7H8O
reactant | acetic anhydride | 2.04 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | nitromethane | 40 ml | [N+](=O)([O-])C | CH3NO2
solvent | ether | 50 ml | CCOCC | C4H10O
product | p-methoxyacetophenone | 1.46 g, 97% yield | COC1=CC=C(C=C1)C(C)=O | C9H10O2
